US09085534B2
Preparation 85A: 7-(3-fluorophenyl)-3,4-dihydro-2H-chromen-4-one
To a solution of 6-bromo-3,4-dihydro-2H-chromen-4-one (1.5 g, 6.6 mmol), 3-fluorophenylboronic acid (1.39 g, 9.9 mmol) and sodium carbonate (2.1 g, 19.8 mmol) in dioxane (20 mL) and water (1 mL) was added Pd(PPh3)4 (382 mg, 0.3 mmol) at rt. The solution was heated at 100° C. overnight. The reaction was filtered, concentrated, and purified by silica gel chromatography (PE/EtOAc/DCM=10:1:2) to give 1.4 g (88%) of the title compound as a white solid. 1H NMR (300 MHz, CDCl3): δ 2.86 (2H, t, J=6.6 Hz), 4.60 (2H, t, J=6.6 Hz), 7.11-7.14 (1H, m), 7.18 (1H, d, J=1.5 Hz), 7.23-7.29 (2H, m), 7.32-7.45 (2H, m), 7.98 (1H, d, J=8.1 Hz).

reactant | 6-bromo-3,4-dihydro-2H-chromen-4-one | 6.6 mmol, 1.5 g | BrC=1C=C2C(CCOC2=CC1)=O | C9H7BrO2
reactant | 3-fluorophenylboronic acid | 9.9 mmol, 1.39 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 19.8 mmol, 2.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.3 mmol, 382 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3-fluorophenyl)-3,4-dihydro-2H-chromen-4-one | 1.4 g, 88% | FC=1C=C(C=CC1)C1=CC=C2C(CCOC2=C1)=O | C15H11FO2
